US04460588
Preparation of 2-(4-Aminophenoxy)-5-chloropyrimidine (1)
A mixture of 5-chloro-2-methylsulfonylpyrimidine* (94 g), p-aminophenol (53 g), potassium carbonate (50 g) and methyl ethyl ketone (350 ml) was heated under reflux for a period of 3 hours. The mixture was filtered and the residue was washed with 2×200 ml of boiling acetone. Evaporation of the combined organic liquors left an orange oil. This readily dissolved in benzene and on standing the product crystallised and was collected by filtration and dried. Yield 80 g (74%), m.p. 125° C.

reactant | 5-chloro-2-methylsulfonylpyrimidine | ClC=1C=NC(=NC1)S(=O)(=O)C | C5H5ClN2O2S
reactant | p-aminophenol | 53 g | C1=CC(=CC=C1N)O | C6H7NO
reactant | potassium carbonate | 50 g | C([O-])([O-])=O.[K+].[K+]
solvent | methyl ethyl ketone | 350 ml | C(C)C(=O)C | C4H8O
product | 2-(4-Aminophenoxy)-5-chloropyrimidine | NC1=CC=C(OC2=NC=C(C=N2)Cl)C=C1 | C10H8ClN3O
